US08703953B2
To a stirred solution of N-(8-chloro-5-methyl-5H-chromeno[3,4-c]pyridin-2-yl)acetamide (250 mg, 0.866 mmol) in DMF (25 mL) was added NaH (62.3 mg, 2.60 mmol) at room temperature and stirred for 10 min. 4-Methoxybenzyl chloride (0.236 mL, 1.732 mmol) was added dropwise and stirred at room temperature overnight. The reaction was quenched with ice and extracted with ethyl acetate (25 mL). The organic layer was separated, washed with water (25 mL), brine (25 mL), dried over sodium sulphate and concentrated under reduced pressure to afford 8-chloro-N,N-bis(4-methoxybenzyl)-5-methyl-5H-chromeno[3,4-c]pyridin-2-amine (200 mg, 0.20 mmol, 24% yield) as a yellow oil. This was taken to the next step without purification. LCMS (ESI) m/e 487.2 [(M±H)+, calcd for C29H28ClN2O3 487.2]; LC/MS retention time (Method C): tR=2.52 min.

reactant | N-(8-chloro-5-methyl-5H-chromeno[3,4-c]pyridin-2-yl)acetamide | 0.866 mmol, 250 mg | ClC=1C=CC2=C(C1)OC(C1=CN=C(C=C12)NC(C)=O)C | C15H13ClN2O2
reactant | NaH | 2.60 mmol, 62.3 mg | [H-].[Na+]
reactant | 4-Methoxybenzyl chloride | 1.732 mmol, 0.236 mL | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 8-chloro-N,N-bis(4-methoxybenzyl)-5-methyl-5H-chromeno[3,4-c]pyridin-2-amine | 0.20 mmol, 200 mg, 24% yield | ClC=1C=CC2=C(C1)OC(C1=CN=C(C=C12)N(CC1=CC=C(C=C1)OC)CC1=CC=C(C=C1)OC)C | C29H27ClN2O3
